US06586475B1
Ethyl 7-[methyl-[2-[(2,2,2-trifluoroacetyl)amino]ethyl]-amino]heptanoate
To a solution of 2,2,2-trifluoro-N-[2-(methylamino)ethyl]acetamide (5 g) in DMF (50 ml) were added ethyl 7-bromoheptanoate (3.6 ml) and potassium carbonate (7.7 g) and stirring was continued at room temperature for 18 hr. Potassium carbonate was removed by filtration and saturated aqueous sodium bicarbonate and water was added to the filtrate, which was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride sequentially, dried with sodium sulfate, and concentrated. The residue was dissolved in toluene and purified by passing through the silica gel column (eluent; hexane to hexane-ethyl acetate (4:1) to ethyl acetate) to obtain the titled compound as a crude material (7 g).

reactant | 2,2,2-trifluoro-N-[2-(methylamino)ethyl]acetamide | 5 g | FC(C(=O)NCCNC)(F)F | C5H9F3N2O
reactant | ethyl 7-bromoheptanoate | 3.6 ml | BrCCCCCCC(=O)OCC | C9H17BrO2
reactant | potassium carbonate | 7.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Ethyl 7-[methyl-[2-[(2,2,2-trifluoroacetyl)amino]ethyl]-amino]heptanoate | CN(CCCCCCC(=O)OCC)CCNC(C(F)(F)F)=O | C14H25F3N2O3
